US04874856
7-[(Z)-2-(2-Aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-[(E)-3-acetoxy-1-propenyl)-3-cephem-4-carboxylic Acid
A mixture of diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-[(E)-3-acetoxy-1-propenyl)-3-cephem-4-carboxylate (1.98 g, 1.75 mmol) in formic acid (20 ml) was stirred for 2 hr at room temperature. Conc. hydrochloric acid (0.16 ml, 1.92 mmol) was added to the mixture and the mixture was stirred for 1 hr at room temperature. Filtration, and concentration of the filtrate, followed by trituration with IPE gave 975 mg of the crude product. Chromatography on a column of reversed phase silica gel and elution with 10% MeOH in water and concentration of the fraction containing the desired product gave 418 mg (51%) of the title compound as an amorphous powder. IR νmax (KBr) cm-1 1765, 1730, 1650. UV λmax (pH 7 phosphate buffer) nm (ε) 290 (23400). 1H NMR (DMSO-d6) δ 2.03 (3H, s, OAC), 3.65 (2H, ABq, 2-H), 4.61 (2H, ABq, CH2OAc), 5.15 (1H, d, J=5 Hz, 6-H), 5.75 (1H, dd, J=5 & 8 Hz, 7-H), 6.15 (1H, m, vinyl-H), 6.65 (1H, s, thiazole), 6.85 (1H, d, J=15 Hz, vinyl-H), 7.05 (2H, s, NH2).

reactant | diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-[(E)-3-acetoxy-1-propenyl)-3-cephem-4-carboxylate | 1.75 mmol, 1.98 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\COC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C68H55N5O7S2
reactant | hydrochloric acid | 1.92 mmol, 0.16 ml | Cl | ClH
solvent | formic acid | 20 ml | C(=O)O | CH2O2
product | 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-[(E)-3-acetoxy-1-propenyl)-3-cephem-4-carboxylic Acid | 418 mg, 51% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\COC(C)=O)C(=O)O)C1=O)=N/O | C17H17N5O7S2
